US06455528B1
(2) N-(4-((Piperazin-1-yl)methyl)phenylmethyl)acetamide
A solution of N-(4-((4-acetylpiperazin-1-yl)methyl)-phenylmethyl)acetamide (11.5 g) and sodium hydroxide (4.0 g) in ethanol (20 ml)-water (20 ml) was refluxedunder heating for 18 hr. The reaction mixture was extracted with chloroform and the extract was dried over anhydrous sodium sulfate. The solvent was evaporated to give a pale-brown oil (9.1 g). The obtained pale-brown oil was purified by silica gel column chromatography (developing solvent; chloroform:methanol:aqueous ammonia=9:1:0.3) to give the title compound (7.4 g) as a pale-yellow oil.

reactant | N-(4-((4-acetylpiperazin-1-yl)methyl)-phenylmethyl)acetamide | 11.5 g | C(C)(=O)N1CCN(CC1)CC1=CC=C(C=C1)CNC(C)=O | C16H23N3O2
reactant | sodium hydroxide | 4.0 g | [OH-].[Na+]
reactant | water | 20 ml | O | H2O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | N-(4-((Piperazin-1-yl)methyl)phenylmethyl)acetamide | 9.1 g | N1(CCNCC1)CC1=CC=C(C=C1)CNC(C)=O | C14H21N3O
